US03947377
21.2 g (0.1 mol) 3-nitrocarbazole were suspended in 250 ml benzene in a three-necked flask equipped with stirrer, condenser and thermometer and present in an oil-bath, then mixed with 50 ml acrylonitrile, heated to 50°C and, after the addition of two drops of benzyl trimethyl ammonium hydroxide, reacted for two hours at 70°C, while stirring. After evaporation of the reaction mixture and recrystallization of the residue from aqueous acetone, there were obtained 22 g 9-(β-cyanoethyl)-3-nitrocarbazole, which was further worked up directly.

reactant | 3-nitrocarbazole | 0.1 mol, 21.2 g | [N+](=O)([O-])C=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8N2O2
reactant | acrylonitrile | 50 ml | C(C=C)#N | C3H3N
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
catalyst | benzyl trimethyl ammonium hydroxide | two drops | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | 9-(β-cyanoethyl)-3-nitrocarbazole | 22 g | C(#N)CCN1C2=CC=CC=C2C=2C=C(C=CC12)[N+](=O)[O-] | C15H11N3O2
